US07384967B2
To a stirred solution of p-tolyl-carbamic acid tert-butyl ester (1.0 g, 4.8 mmol) in Et2O (10 mL) under a nitrogen atmosphere was added dropwise a 1.7 M solution of t-BuLi in pentan (6.5 mL, 11.1 mmol) over a 10-min period at −20° C. The mixture was stirred at −10° C. for 2.5 h and then cyclopropanecarboxylic acid methoxy-methyl-amide (0.92 g, 6.3 mmol) was added over 5 min. The mixture was allowed to warm to room temperature and stirred for further 1 h before it was quenched with aqueous NH4Cl. The organic phase was isolated and the aqueous phase was extracted with CH2Cl2, and the combined organic phases were dried and concentrated in vacuo. The crude material was dissolved CH2Cl2 (15 mL) and TFA (15 mL) and stirred at room temperature for 3 h. The reaction mixture was evaporated in vacuo, and added aqueous NaHCO3 to pH 7 and extracted with CH2Cl2. The combined organic phases were dried and concentrated in vacuo to give 0.80 g crude (2-amino-5-methyl-phenyl)-cyclopropyl-methanone as a yellow oil.

reactant | p-tolyl-carbamic acid tert-butyl ester | 4.8 mmol, 1.0 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C)=O | C12H17NO2
reactant | t-BuLi | [Li]C(C)(C)C
reactant | pentan | 11.1 mmol, 6.5 mL | CCCCC | C5H12
reactant | cyclopropanecarboxylic acid methoxy-methyl-amide | 6.3 mmol, 0.92 g | CON(C(=O)C1CC1)C | C6H11NO2
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (2-amino-5-methyl-phenyl)-cyclopropyl-methanone | 0.80 g | NC1=C(C=C(C=C1)C)C(=O)C1CC1 | C11H13NO
